US05185352
1-Benzyl-2-hydroxymethyl-5-octadecyloxy-4(1H)-pyridone
A mixture of 50.0 g (0.127 mole) 2-hydroxymethyl-5-octadecyloxy-4-pyranone and 70 mL benzylamine is stirred for 2 hours at 100°-110° C. After cooling to about 50° C., the dark solution is mixed with 400 mL water and stirred. The precipitate thus formed is filtered off, washed, dried and recrystallized from propan-2-ol with thee addition of active charcoal, colorless crystals thereby being obtained; m.p. 120°-121° C.

reactant | 2-hydroxymethyl-5-octadecyloxy-4-pyranone | 0.127 mole, 50.0 g | OCC=1OC=C(C(C1)=O)OCCCCCCCCCCCCCCCCCC | C24H42O4
reactant | benzylamine | 70 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | water | 400 mL | O | H2O
product | 1-Benzyl-2-hydroxymethyl-5-octadecyloxy-4(1H)-pyridone | C(C1=CC=CC=C1)N1C(=CC(C(=C1)OCCCCCCCCCCCCCCCCCC)=O)CO | C31H49NO3
